*$
*  UCC27519
*****************************************************************************
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: UCC27519
* Date: 23APR2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: 
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
* Modified for LTspice - 20/19/2020 bordodynov


.SUBCKT UCC27519  IN+ EN VDD OUT VGND
E_U1_ABM3         U1_INM_OK 0 VALUE { IF(V(IN+) +  V(U1_INM_OK)*V(U1_17PERCENT_VDD) > V(U1_58PERCENT_VDD), 1, 0)    }
E_U1_ABM4         U1_EN_OK 0 VALUE { IF(V(EN) + V(U1_EN_OK)*1 > 2.2, 1, 0)    }
R_U1_R1         VDD EN  200k  
X_U1_U4         U1_UVLO U1_EN_OK U1_INM_OK DRV AND3_BASIC_GEN
E_U1_E1         U1_58PERCENT_VDD VGND VDD VGND 0.58
E_U1_ABM5         U1_UVLO 0 VALUE { IF(V(VDD) + 0.3*V(U1_UVLO) > 4.2 , 1, 0)   
+  }
E_U1_E2         U1_17PERCENT_VDD VGND VDD VGND 0.17
R_U1_R2         IN+ VGND 200k  
C_U2_C3         OUT U2_N215963  10p  
E_U2_E1         U2_N223861 OUT VALUE { IF(V(U2_N218110, 0) > 0.5, 5, -5) }
C_U2_C5         OUT VDD  10pF  
M_U2_M1         U2_N215897 U2_N215963 OUT OUT NMOS01  
+ L=6u  
+ W=4.5u         
E_U2_E2         OUT U2_N224336 VALUE { IF(V(U2_N218110, 0) > 0.5, -5, 5) }
M_U2_M2         U2_N216211 U2_N215967 OUT OUT PMOS01  
+ L=6.8u  
+ W=5.8u         
R_U2_R4         VDD U2_N215897  0.02  
C_U2_C6         OUT U2_N215967  10p  
R_U2_R2         U2_N224336 U2_N215967  20  
R_U2_R5         U2_N216211 VGND  0.02  
X_U2_U1         DRV U2_N218110 DELAY PARAMS:  RINP=1K DELAY=7.2n
C_U2_C1         U2_N215963 U2_N215897  5p  
C_U2_C2         U2_N216211 U2_N215967  5p  
R_U2_R1         U2_N223861 U2_N215963  20  
C_U2_C4         VGND OUT  10pF  
** Wrapper definitions for AA legacy support **
.model NMOS01 nmos
+ vto=2
+ kp=0.889
+ lambda=0.001

.model PMOS01 pmos
+ vto=-2
+ kp=0.889
+ lambda=0.001

.SUBCKT DELAY INP OUT PARAMS: RINP = 1k DELAY = 10n 
R1 INP 101 {RINP}
C1 101 102 { 1.4427 * DELAY / RINP }
E1 102   0 OUT   0 0.5
E2 OUT   0 VALUE {IF(V(101) > 0.5, 1, 0)}
.ENDS DELAY

.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
BE_ABMGATE    0 Y  i=IF(V(A) > {VTHRESH} ,{VSS},{VDD}) Rpar=1 Cpar=1n
.ENDS INV_BASIC_GEN

.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
BE_ABMGATE    0 Y i=IF(V(A) > {VTHRESH}  &  V(B) > {VTHRESH} & V(C) > {VTHRESH},{VDD},{VSS}) Rpar=1 Cpar=1n
.ENDS AND3_BASIC_GEN
.ENDS UCC27519